US03963725
To a solution of 1-(4-chlorophenoxy)methyl-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline (90 mg) in anhydrous methylene chloride (5 ml) was added boron tribromide (203 mg) at -55°C under cooling and stirring, and then the reaction temperature was gradually elevated to at 5°C over 17.5 hours. After the reaction, the reaction mixture was concentrated under reduced pressure. The residue was dissolved in methanol (5 ml) and water (0.5 ml), and the solution was warmed at 60° to 80°C for 10 minutes and then the solution was concentrated. The amorphous residue was dissolved in acetone, and to the solution was added ether, and the mixture was allowed to stand. The precipitated crystals were collected by filtration and dried to give 1-(4-chlorophenoxy)methyl-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrobromide (77 mg), mp 232° to 233°C. The product was identified with a sample by I.R. spectrum and N.M.R. spectrum.

reactant | 1-(4-chlorophenoxy)methyl-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline | 90 mg | ClC1=CC=C(OCC2NCCC3=CC(=C(C=C23)OC)OC)C=C1 | C18H20ClNO3
reactant | boron tribromide | 203 mg | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 1-(4-chlorophenoxy)methyl-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrobromide | 77 mg | Br.ClC1=CC=C(OCC2NCCC3=CC(=C(C=C23)O)O)C=C1 | InChI=1S/C16H16ClNO3.BrH/c17-11-1-3-12(4-2-11)21-9-14-13-8-16(20)15(19)7-10(13)5-6-18-14;/h1-4,7-8,14,18-20H,5-6,9H2;1H
